US06156891
Under a stream of nitrogen gas, 0.399 g of 3,3,3-trifluoro-2-oxopropanal 1-(4-chloro-2-fluoro-5-isopropoxyphenylhydrazone), compound 3-3 was dissolved in 2.4 ml of pyridine at room temperature. To this solution were added 0.133 ml of piperidine and 0.159 g of methylmalonic acid. and the mixture was heated to 70° C. and stirred for 3.5 hours. Then, 2.4 ml of acetic acid was added, and stirring was further continued at 130° C. for 8 hours. The reaction solution was left cooling to room temperature and concentrated under reduced pressure. The residue was diluted with 100 ml of diethyl ether. The diluted solution was washed twice with 20 ml of 3 N hydrochloric acid and once with 30 ml of saturated sodium bicarbonate solution, dried with magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was subjected to column chromatography to give 0.255 g of 2-(2-fluoro-4-chloro-5-isopropoxyphenyl)-4-methyl-5-trifluoromethylpyridazin-3-one, compound 5-2.

reactant | 3,3,3-trifluoro-2-oxopropanal 1-(4-chloro-2-fluoro-5-isopropoxyphenylhydrazone) | 0.399 g | ClC1=CC(=C(C=C1OC(C)C)NN=CC(C(F)(F)F)=O)F | C12H11ClF4N2O2
reactant | piperidine | 0.133 ml | N1CCCCC1 | C5H11N
reactant | methylmalonic acid | 0.159 g | CC(C(=O)O)C(=O)O | C4H6O4
reactant | acetic acid | 2.4 ml | C(C)(=O)O | C2H4O2
solvent | pyridine | 2.4 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-fluoro-4-chloro-5-isopropoxyphenyl)-4-methyl-5-trifluoromethylpyridazin-3-one | 0.255 g | FC1=C(C=C(C(=C1)Cl)OC(C)C)N1N=CC(=C(C1=O)C)C(F)(F)F | C15H13ClF4N2O2
